US07015218B1
To dimethylformamide solution (35 ml) containing 2-chloro-5-nitrobenzonitrile (14.1 g) and cyclohexanol (8.5 g) was added sodium hydride (60% content, 3.7 g) under ice-cooling, and the mixture was stirred for 1 h. The reaction mixture was added to water and extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. The residue was recrystallized from diisopropyl ether to give 2-cyclohexyloxy-5-nitrobenzonitrile (11.6 g), melting point: 97–98° C.

reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-5-nitrobenzonitrile | 14.1 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | cyclohexanol | 8.5 g | C1(CCCCC1)O | C6H12O
reactant | sodium hydride | 3.7 g | [H-].[Na+]
solvent | water | O | H2O
product | 2-cyclohexyloxy-5-nitrobenzonitrile | 11.6 g | C1(CCCCC1)OC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C13H14N2O3
